US05703050
b) Sodium (3-(4-(benzyloxycarbonylaminoiminomethyl)phenyl)ureido)acetate
0.74 g (1.86 mmol) of ethyl (3-(4-(benzyloxycarbonylaminoiminomethyl)phenyl)ureido)acetate in 100 ml of ethanol is treated with 1.86 ml of 1N NaOH and the mixture is stirred at room temperature for 6 h. The solvent is removed in vacuo and the residue is freeze-dried.

reactant | ethyl (3-(4-(benzyloxycarbonylaminoiminomethyl)phenyl)ureido)acetate | 1.86 mmol, 0.74 g | C(C1=CC=CC=C1)OC(=O)NN=CC1=CC=C(C=C1)NC(NCC(=O)OCC)=O | C20H22N4O5
reactant | NaOH | 1N, 1.86 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Sodium (3-(4-(benzyloxycarbonylaminoiminomethyl)phenyl)ureido)acetate | C(C1=CC=CC=C1)OC(=O)NN=CC1=CC=C(C=C1)NC(NCC(=O)[O-])=O.[Na+] | InChI=1S/C18H18N4O5.Na/c23-16(24)11-19-17(25)21-15-8-6-13(7-9-15)10-20-22-18(26)27-12-14-4-2-1-3-5-14;/h1-10H,11-12H2,(H,22,26)(H,23,24)(H2,19,21,25);/q;+1/p-1
